US06812237B2
To a solution of 3-(hydroxymethyl)-phenol (50 g, 0.4 mol) and t-butyl bromoacetate (86 g, 0.44 mol) in DMF (500 ml, anhydrous) at room temperature is added K2CO3 (122 g, 0.88 mol). The reaction mixture is stirred vigorously for 2 hrs, and the mixture is poured into ice-water (2.5 L) and extracted with ether (3×500 ml). The combined ether extracts are washed with water, dried over MgSO4 and evaporated in vacuo to provide t-butyl-3-(hydroxymethyl)-phenoxyacetate as a low melting, light yellow solid; mp: 52-56° C.

reactant | 3-(hydroxymethyl)-phenol | 0.4 mol, 50 g | OCC=1C=C(C=CC1)O | C7H8O2
reactant | t-butyl bromoacetate | 0.44 mol, 86 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | K2CO3 | 0.88 mol, 122 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | t-butyl-3-(hydroxymethyl)-phenoxyacetate | C(C)(C)(C)OC(COC1=CC(=CC=C1)CO)=O | C13H18O4
